US05705504
1-tert-Butoxycarbonyl-4-(aminomethyl)piperidine
To a cooled (0° C.) solution of 4-(aminomethyl)piperidine (40 g, 0.35 mol) in CHCl3 (300 mL) was added a solution of di-tert-butyl dicarbonate (39.2 g, 0.17 mol) in CHCl3 (300 mL) and the reaction mixture was stirred at room temperature for 18 h. The resulting solution was washed with H2O and the aqueous phase was reextracted with CHCl3. The combined organic phases were dried and concentrated to a crude product (54.1 g), which was directly used in the next step as obtained.

reactant | 4-(aminomethyl)piperidine | 0.35 mol, 40 g | NCC1CCNCC1 | C6H14N2
reactant | di-tert-butyl dicarbonate | 0.17 mol, 39.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | CHCl3 | 300 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 300 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-tert-Butoxycarbonyl-4-(aminomethyl)piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)CN | C11H22N2O2
